US04767743
E8. 3-(S)-methylheptanoic acid
To 10 g. of 3-(S)-methyl-1-heptanol in 175 ml. of acetone was added over 45 minutes 90 ml. of Jones reagent dropwise at 15°-20° C. After 15 minutes, 15 ml. of isopropanol was added and stirring continued for 30 minutes. The reaction was poured into water and the product extracted with ether. The extracts were combined, washed with water, a sodium bisulfite solution and a brine solution and dried over magnesium sulfate. Removal of the solvent gave 10 g. of the product as a liquid, b.p. 84°-88° C./0.4 torr, [alpha]D =-4.46 (CH3OH C=0.105 g/ml.).

reactant | 3-(S)-methyl-1-heptanol | C[C@H](CCO)CCCC | C8H18O
reactant | acetone | CC(=O)C | C3H6O
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | CH3OH | CO | CH4O
solvent | water | O | H2O
product | 3-(S)-methylheptanoic acid | C[C@H](CC(=O)O)CCCC | C8H16O2
